US07670512B2
1. Preparation of 3,5-bis[(2,2,2-trifluoroacetyl)amino]benzoic acid
3,5-Diaminobenzoic acid (6.08 g, 40 mmol) and TEA (7.27 g, 72 mmol) were dissolved in 30 mL of THF and 30 mL of DMSO with nitrogen purge. Trifluoroacetic anhydride (50.4. g, 240 mmol) was loaded into the stirred mixture at 0˜5° C. over a period of 1 h, and the resultant mixture was continuously stirred at that temperature for 1 h and then at 50° C. for 1 h. The resultant lightly brown solution was poured into 1500 mL of water with stirring, resulting in the formation of a grey precipitate, which was collected by filtration, followed by washing with 500 mL of water. Thereafter, the product was dried at 75° C. overnight under vacuum to give the title compound in a yield of 82%.

reactant | 3,5-Diaminobenzoic acid | 40 mmol, 6.08 g | NC=1C=C(C(=O)O)C=C(C1)N | C7H8N2O2
reactant | Trifluoroacetic anhydride | 240 mmol | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 1500 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3,5-bis[(2,2,2-trifluoroacetyl)amino]benzoic acid | yield of 82% | FC(C(=O)NC=1C=C(C(=O)O)C=C(C1)NC(C(F)(F)F)=O)(F)F | C11H6F6N2O4
